US06765009B2
Synthesis of 4-(4-amino-naphthalen-1-yloxy)-pyridine-2-carboxylic acid methyl ester
To a solution of 1-fluoro-4-nitro-naphthalene (1.0 g, 5.24 mmol) in dry DMF (22 mL) was added 4-hydroxy-pyridine-2-carboxylic acid methyl ester (0.993 g, 5.24 mmol) and K2CO3 (7.24 g, 52.4 mmol). The resulting yellow suspension was stirred at 100° C. under argon for five h. After cooling to room temperature, the solution was diluted with CH2Cl2 (62 mL) and 10% Pd/C (1 g) was added. The suspension was stirred under a H2 balloon for 72 h. The reaction was then filtered through a plug of diatomaceous earth and rinsed with EtOAc (150 mL) and extracted with H2O (3×100 mL), brine (1×100 mL) and dried over MgSO4. The solvent was removed via rotary evaporation and the resulting oil was applied to a flash silica column eluting with MeOH:CH2Cl2 (2:98) to provide the title compound (800 mg, 52%).

reactant | 1-fluoro-4-nitro-naphthalene | 5.24 mmol, 1.0 g | FC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6FNO2
reactant | 4-hydroxy-pyridine-2-carboxylic acid methyl ester | 5.24 mmol, 0.993 g | COC(=O)C1=NC=CC(=C1)O | C7H7NO3
reactant | K2CO3 | 52.4 mmol, 7.24 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 62 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-(4-amino-naphthalen-1-yloxy)-pyridine-2-carboxylic acid methyl ester | 800 mg, 52% | COC(=O)C1=NC=CC(=C1)OC1=CC=C(C2=CC=CC=C12)N | C17H14N2O3
